US05348769
Preparation of N-allyl nonadecafluoro-1-decanamide
Allyl amine (6.03 milliliters, 3.0 molar equivalent) and isopropyl ether (35.0 milliliters) were added to a 3-neck 100-milliliter round bottom flask equipped with water cooled condenser (to a nitrogen inlet), dropping funnel and thermometer adapter (to a Thermowatch device) at room temperature under a nitrogen blanket. A solution of nonadecafluoro-1-decanoyl chloride (14.27 grams, 1.0 molar equivalent) in 5.0 milliliters isopropyl ether was added by the dropping funnel over 2 hours while maintaining the temperature below 30° C. After the addition was completed, the reaction mixture was heated for 2 hours at 30° C., followed by additional treating for 2 hours at 40° C. After cooling the mixture to room temperature, the mixture was diluted with 100 milliliters isopropyl ether and washed with 9% aqueous hydrochloric acid solution (75 milliliters). The aqueous layer was extracted with 50 milliliters isopropyl ether. The combined organic layers were evaporated in vacuo to give a red solid. High vacuum distillation produced 13.03 grams (88% isolated yield) of a light yellow solid (boiling point 100° C., 0.1 millimeters Hg).

reactant | Allyl amine | 3.0 molar, 6.03 milliliters | C(C=C)N | C3H7N
reactant | nonadecafluoro-1-decanoyl chloride | 1.0 molar, 14.27 grams | FC(C(C(C(C(C(C(C(C(=O)Cl)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C10ClF19O
solvent | isopropyl ether | 5.0 milliliters | C(C)(C)OC(C)C | C6H14O
solvent | isopropyl ether | 100 milliliters | C(C)(C)OC(C)C | C6H14O
solvent | isopropyl ether | 35.0 milliliters | C(C)(C)OC(C)C | C6H14O
product | N-allyl nonadecafluoro-1-decanamide | C(C=C)NC(C(C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)=O | C13H6F19NO
